US04144271
Step A: N-chloroacetimidoyl-2-aminoindane hydrochloride
To a stirred solution of 0.54 g. (0.01 mole) of sodium methoxide in 100 ml. methanol was added 7.6 g. (0.1 mole) chloroacetonitrile with cooling. The solution was stirred at room temperature for 1 1/2 hours. Then there was added a solution of 10.9 g. (0.1 mole) of 2-aminoindane in 50 ml. of methanol and 16.66 ml. of 6N ethanolic hydrochloric acid (0.1 mole). The solution was stirred at room temperature for 4 hours and concentrated to dryness at room temperature under high vacuum. The product was recrystallized from isopropanol.

reactant | sodium methoxide | 0.01 mole | C[O-].[Na+]
reactant | chloroacetonitrile | 0.1 mole | ClCC#N | C2H2ClN
reactant | 2-aminoindane | 0.1 mole | NC1CC2=CC=CC=C2C1 | C9H11N
reactant | hydrochloric acid | 0.1 mole, 6N | Cl | ClH
solvent | methanol | CO | CH4O
product | N-chloroacetimidoyl-2-aminoindane hydrochloride | Cl.ClCC(=N)NC1CC2=CC=CC=C2C1 | InChI=1S/C11H13ClN2.ClH/c12-7-11(13)14-10-5-8-3-1-2-4-9(8)6-10;/h1-4,10H,5-7H2,(H2,13,14);1H
